Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
crab / iodine
 
Attending: ___
 
Chief Complaint:
L sided weakness/numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ speaking ___ yoF w/ hx of HTN 

who was transferred from OSH for evaluation of left eye blurry
vision and headache after being found to have small R frontal
tSAH. Interview/exam performed w/ ___ interpreter.

Reports event few days ago (last ___ of LOC & head strike
while walking to bathroom. Denies remembering hitting the floor.
Unwitnessed and unknown how long she was unconscious for, but
awoke covered in blood from left-sided nosebleed. Felt tongue &
lip were swollen afterwards and left arm/knee sore. Occurred
immediately after standing from lying down. No known prior hx of
syncope. No preceding chest pain, palpitations, or dizziness. No
tongue laceration or bowel/bladder incontinence associated w/
event and no notable confusion after event (called son after
unable to get up 5 min after awakening). Head felt heavy after
event. Did not seek medical attention at that time. 

Could not sleep night after event. Following day, awoke w/
fluctuating severity (max ___ but constant, sharp left 
temporal
headache, which has gradually worsened since onset. Reports
associated photophobia, phonophobia, osmophobia, dizziness,
vertigo (room spinning w/ position changes), and nausea w/ NBNB
emesis (~once daily). Headache worsens at night when unable to
sleep at night d/t coughing. Denies positional component.
Initially had some relief w/ acetaminophen and ibuprofen at 
home,
but became less effective over week. 

Also notes left > right blurry vision when dizziness worsened
("seeing stars" when getting up too quickly or squatting) and
bilateral eye pain/pressure/burning since onset of headache.

After fall, had fluctuating left arm/leg weakness (dropping
things at work, multiple episodes of tripping over left leg),
which has not worsened since onset (has continued to work
throughout week, just being more careful). 

Presented to OSH today after noting SBP 190s at home. Not on AC
at home. Upon arrival to OSH, SBP 190s and NCHCT notable for
trace R frontal SAH. Given 20mg IV labetalol, 10mg IV reglan, 
and
4mg IV zofran and transferred to ___. 

Evaluated by NSGY upon arrival to ___ ED, who recommended no
acute intervention and entered into mild TBI and syncope
pathways. Noted to have T1 spinous process fracture on CT C 
spine
that does not require intervention. Plan for NSGY re-eval in AM
and possible clearance for d/c per NSGY from ED. Undergoing
cardiac w/u w/ labs & TTE in ED for family hx of CHF, recent
syncope, and subacute SOB. 

Of note, has had headaches w/ high BP in the past but less
severe, which also have had eye pain/burning associated w/ them
although not dizziness. 

 
Past Medical History:
HTN
HLD
moderate cervical dysplasia (dx ___ ___ 
colposcopy,
___ conization, last pap neg ___                           


 
Social History:
___
Family History:
Sister- unspecified
Nephew- epilepsy
Maternal aunt- epilepsy     
Cousin passed away ___ rupture of aneurysm
Sister/son- headaches                       
No known family hx of stroke
 
Physical Exam:
ADMISSIOn PHYSICAL EXAMINATION: 
Vitals: T:97.8  BP:133/73   HR:68   RR:27  O2 Sat:98%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx, healing bite marks on buccal mucosa (left > right),
no tongue lacerations
Neck: Supple, no nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: NR, RR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, place, time, and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
___ per interpreter with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1.5mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    4+*  4+*  4+*  4+*  4    4   4+*  4*   5-  4+   4+   
R    5    5    5    5    5    5   5    5    5   5-   5    
Significantly weaker L hand grip
*Limited significantly by pain (says ___ w/ attempted
resistance), although possibly not maximal effort despite pain
limitation

-Sensory: Decreased temperature and pinprick left lower
extremity, maximal on lateral leg. Reports decreased temperature
but increased pinprick on left upper extremity. Vibration &
proprioception intact throughout. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally. Somewhat slowed RAM & finger tapping on left. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem with some difficulty. Negative
Romberg.

DISCHARGE PHYSICAL EXAM:
MS: oriented. provides appropriate history. speech fluent

CN: slight left nasolabial fold flattening with symmetric
activation. Both eyes are slightly esotropic at baseline. No
nystagmus. Eye movements full. Speech not dysarthric. Tongue
midline. 

Motor:  Left pronator drift. Confrontational testing limited by
left arm and leg pain. Pain with full range of motion of left
arm. Left humerus pain to palpation.
In limitation of pain:
   Delt  Bic  Tric  WE  FE  IO  IP  Quad  Ham  TA   Gas 
R   full strength throughout
L   4*   5-    4+*  ___   4*    4*    4   4*   4
*pain limited

Sensation: intact to light touch throughout. Dull to pinprick in
most of LUE except for patchy areas distally. Does not 
extinguish
with DSS. 

___: FNF intact bilaterally. 

 
Pertinent Results:
___ 11:14PM BLOOD WBC-11.7* RBC-4.35 Hgb-12.9 Hct-38.9 
MCV-89 MCH-29.7 MCHC-33.2 RDW-11.9 RDWSD-39.0 Plt ___
___ 05:58AM BLOOD WBC-9.9 RBC-4.62 Hgb-13.7 Hct-42.9 MCV-93 
MCH-29.7 MCHC-31.9* RDW-12.0 RDWSD-41.0 Plt ___
___ 11:14PM BLOOD ___ PTT-29.6 ___
___ 11:14PM BLOOD Glucose-134* UreaN-11 Creat-0.7 Na-138 
K-4.2 Cl-105 HCO3-20* AnGap-13
___ 05:58AM BLOOD Glucose-120* UreaN-17 Creat-0.8 Na-137 
K-4.6 Cl-106 HCO3-22 AnGap-9*
___ 11:14PM BLOOD ALT-13 AST-17 AlkPhos-79 TotBili-0.2
___ 11:14PM BLOOD cTropnT-<0.01
___ 11:14PM BLOOD proBNP-52
___ 11:14PM BLOOD Albumin-4.0 Calcium-9.2 Phos-4.0 Mg-2.1
___ 07:50PM BLOOD %HbA1c-6.2* eAG-131*
___ 07:50PM BLOOD Triglyc-158* HDL-43 CHOL/HD-6.1 
LDLcalc-189*
___ 07:50PM BLOOD TSH-1.0
___ 11:14PM BLOOD HCG-<5
___ 11:14PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:15PM URINE Color-Straw Appear-CLEAR Sp ___
___ 12:15PM URINE Blood-TR* Nitrite-NEG Protein-20* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-7.5 
Leuks-NEG
___ 12:15PM URINE RBC-2 WBC-2 Bacteri-NONE Yeast-NONE Epi-2
___ 12:15PM URINE Mucous-RARE*

MRI/MRA Brain ___
IMPRESSION: 
  
  
1. Focus of diffusion abnormality involving the right internal 
capsule 
posterior limb, without low ADC value which therefore may be 
subacute. 
2. Trace sulcal FLAIR hyperintensity overlying the superior 
right frontal lobe corresponds to the acute subarachnoid 
hemorrhage better seen on CT from previous day.  Hemorrhage 
cannot be dated with precision. 
3. There are a few minimal scattered T2/FLAIR hyperintensities 
in the white matter which may reflect early chronic small vessel 
disease versus sequela of infectious/inflammatory processes or 
old trauma. 
4. Unremarkable MRA of the brain 

Shoulder Xray
IMPRESSION:  
  
No fracture or dislocation.

CTA h/n ___

IMPRESSION: 
  
  
1. Limited study as described. 
2. Question age-indeterminate nondisplaced fracture of the tip 
of the T1 
spinous process versus degenerative change. 
3. Otherwise, no definite evidence of acute fracture or 
traumatic malalignment 
is seen involving the cervical spine. 
4. Probable periodontal disease as described. 
5.  Paranasal sinus disease , as described. 
6. Multiple thyroid nodules, the largest of which measures up to 
1.7 cm in the 
left thyroid lobe.  Please see recommendation below. 
  
RECOMMENDATION(S):  1.7 cm thyroid nodule.  Ultrasound follow up 
recommended. 
  
___ College of Radiology guidelines recommend further 
evaluation for 
incidental thyroid nodules of 1.0 cm or larger in patients under 
age ___ or 1.5 
cm in patients age ___ or ___, or with suspicious findings. 

 
Brief Hospital Course:
___ speaking ___ yoF w/ hx of HTN who was transferred from 
OSH for evaluation of left eye blurry vision and headache after 
being found to have small R frontal tSAH. She reported some 
possible L sided weakness and numbness. On examination, motor 
exam limited by pain but suggestion of some true weakness. There 
was also decreased sensation in the left arm. She had a MRI 
performed, which showed likely a subacute infarct near the 
posterior limb of the internal capsule. That the findings were 
subacute on MRI did match with the timeline from the history. We 
felt this explained the sensory symptoms. TTE was unremarkable. 
LDL was 189, A1c 6.2%. She was started on asa 81 mg and 
atorvastatin 40mg. MRA was unremarkable. She reported MSK pain, 
plain film of the shoulder negative for fracture. ___ did not 
feel evaluation was needed as she was ambulating at baseline. As 
stroke thought to be small vessel etiology, no further cardiac 
monitoring beyond inpatient monitoring was felt to be necessary. 
No abnormalities on inpatient cardiac telemetry noted.

She also was felt to have a mild TBI that caused a traumatic SAH 
seen on CT and MRI (R frontal). This was monitored and stable. 
She was seen by neurosurgery, and no specific intervention 
recommended. She did mention some dizziness inpatient, which 
perhaps was related to concussion.

TRANSITIONAL ISSUES
#stroke
-started ASA, atorvastatin
-follow up in stroke clinic

#small R frontal trauamatic SAH
-follow clinically

#Multiple thyroid nodules on L -incidentally noted on CTA. 
largest measures 1.7 cm. TSH 1.0
-consider outpatient thyroid ultrasound

=======================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 189 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) () N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*2 
3.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were hospitalized because of symptoms of weakness. ___ had 
tests done, one of which was a MRI. This showed that ___ had a 
small stroke. The stroke likely explains your changes in 
sensation on the left. It maybe explains some of the weakness as 
well. It is not clear if it was related to the fall. ___ also 
had a very small area of bleeding from hitting your head. We did 
tests to see why ___ had a stroke. Your cholesterol was high, so 
we started a cholesterol medication. We also started aspirin. 
___ should continue taking these. We expected your symptoms to 
improve over the next few weeks.

We also think ___ had a mild concussion or traumatic brain 
injury. This caused a very small amount of blood on the surface 
on the brain. Concussions can result in many symptoms, such as 
dizziness, headaches, cognitive fog, memory issues. 

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___